US07842810B2
2-(6-Methoxy-[1,5]naphthyridin-4-yl)-4,5,6,7-tetrahydro-2H-indazol-5-ylamine
To a solution of [2-(6-methoxy-[1,5]naphthyridin-4-yl)-4,5,6,7-tetrahydro-2H-indazol-5-yl]-carbamic acid tert-butyl ester (317 mg, 0.800 mmol) in CH2Cl2 (3.6 mL) was added 4 M HCl in dioxane (3.40 mL, 13.7 mmol), and the solution was stirred at RT for 3.5 h. The solution was concentrated to afford a crude solid, which was dissolved in CH3OH (10 mL). Anionic exchange resin (550 Å OH, 100 mg) was added and the mixture was stirred for 20 min. The mixture was filtered, and the resin was washed with CH3OH (30 mL). The filtrate was concentrated to afford 234 mg (99% crude) of the title compound as a brown oil. MS (ESI): exact mass calculated for C16H17N5O, 295.14; m/z found, 296.3 [M+H]+. 1H NMR (400 MHz, CDCl3): 9.08 (s, 1H), 8.76 (d, J=5.1, 1H), 8.26 (d, J=9.1, 1H), 8.15 (d, J=5.1, 1H), 7.18 (d, J=9.1, 1H), 4.10 (s, 3H), 3.29-3.27 (m, 1H), 3.01-2.96 (m, 2H), 2.87-2.80 (m, 1H), 2.48-2.39 (m, 1H), 2.11-2.05 (m, 1H), 1.82-1.64 (m, 3H).

reactant | [2-(6-methoxy-[1,5]naphthyridin-4-yl)-4,5,6,7-tetrahydro-2H-indazol-5-yl]-carbamic acid tert-butyl ester | 0.800 mmol, 317 mg | C(C)(C)(C)OC(NC1CC2=CN(N=C2CC1)C1=CC=NC2=CC=C(N=C12)OC)=O | C21H25N5O3
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 13.7 mmol, 3.40 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 3.6 mL | C(Cl)Cl | CH2Cl2
solvent | CH3OH | 10 mL | CO | CH4O
product | 2-(6-Methoxy-[1,5]naphthyridin-4-yl)-4,5,6,7-tetrahydro-2H-indazol-5-ylamine | COC=1N=C2C(=CC=NC2=CC1)N1N=C2CCC(CC2=C1)N | C16H17N5O
